US05726172
The 2-isopropyl-3-hydroxymethylpyridine (240 mg, 1.59 mmol) was dissolved in CH2Cl2 (15 mL) and cooled under nitrogen to 0° C. and thionyl chloride (1.0 mL) was slowly added and the reaction was stirred for 3 hours. The solvent was removed under reduced pressure and the residue was partitioned between CH2Cl2 and saturated sodium bicarbonate. The organic layer was dried with MgSO4, filtered and the solvent removed under reduced pressure to give the desired 2-isopropyl-3-chloromethylpyridine. The 2-isopropyl-3-chloromethylpyridine (65 mg, 0.383 mmol) was dissolved in CHCl3 (10 mL) and cooled under nitrogen to 0° C. and m-chloroperbenzoic acid (55%, 150 mg) was added in small portions. The reaction was stirred for 2 hours. The solution was extracted with saturated aqueous sodium bicarbonate (2×5 mL). The organic phase was dried with MgSO4, filtered, and the solvent removed under reduced pressure. The residue was chromatographed on silica gel packed in 99:1 CH2Cl2 :MeOH and eluted with same. The appropriate fractions were combined and the solvent removed under reduced pressure to give the desired 2-isopropyl-3-chloromethylpyridine-N-oxide.

reactant | 2-isopropyl-3-chloromethylpyridine | 0.383 mmol, 65 mg | C(C)(C)C1=NC=CC=C1CCl | C9H12ClN
reactant | m-chloroperbenzoic acid | 150 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-isopropyl-3-chloromethylpyridine-N-oxide | C(C)(C)C1=[N+](C=CC=C1CCl)[O-] | C9H12ClNO
